US05811459
A mixture of methyl 4-[3-(2-(3-nitrophenylmethyloxy)-phenyl)propyl]benzoate (0.25 g), tin (II) chloride dihydrate (0.7 g) in ethanol (10 ml) was heated at 70° C. for 45 minutes, cooled and poured onto ice. The pH of the solution was adjusted to 8 with sodium bicarbonate and extracted with ethyl acetate (2×50 ml). The combined organics were washed with brine (50 ml), dried (magnesium sulphate), filtered and evaporated. The residue was purified by subjecting to chromatography on silica gel using ethyl acetate hexane (1:9) as eluant. There was thus obtained methyl 4-[3-(2-(3-aminophenylmethyloxy)phenyl)propyl]benzoate (185 mg). b: - Methyl 4-[3-(2-(3-methylcarbonylaminophenylmethyloxy)-phenyl) propyl]benzoate was prepared from methyl 4-[3-(2-(3-amino-phenylmethyloxy)phenyl)propyl]benzoate (preparation described in note a) as follows:

reactant | methyl 4-[3-(2-(3-nitrophenylmethyloxy)-phenyl)propyl]benzoate | 0.25 g | [N+](=O)([O-])C=1C=C(C=CC1)COC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C24H23NO5
reactant | tin (II) chloride dihydrate | 0.7 g | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | Methyl 4-[3-(2-(3-methylcarbonylaminophenylmethyloxy)-phenyl) propyl]benzoate | CC(=O)NC=1C=C(C=CC1)COC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C26H27NO4
